US09029402B2
Synthesis of ethyl 2-(4-carbamoyl-2-methylphenyl)-1-(4-methoxyphenyl)-1H-pyrrole-3-carboxylate (3-2, R1=4-methoxyphenyl)
To a mixture of ethyl 2-(4-bromo-2-methylphenyl)-1-(4-methoxyphenyl)-1H-pyrrole-3-carboxylate (1 g, 2.4 mmol) in DMF (50 mL) was added CuCN (0.43 g, 4.8 mmol), and the suspension solution was heated to 180° C. for 12 h. After being cooled down to room temperature, the reaction mixture was poured into water, and the mixture was extracted with ethyl acetate (50 mL×3). The combined organic layers were washed with brine, dried over Na2SO4, and concentrated under reduced pressure. The residue was purified on silica gel column chromatography (eluting with 50% ethyl acetate in petroleum ether) to give the title compound (600 mg, 66% yield) as a white solid.

reactant | ethyl 2-(4-bromo-2-methylphenyl)-1-(4-methoxyphenyl)-1H-pyrrole-3-carboxylate | 2.4 mmol, 1 g | BrC1=CC(=C(C=C1)C=1N(C=CC1C(=O)OCC)C1=CC=C(C=C1)OC)C | C21H20BrNO3
reactant | CuCN | 4.8 mmol, 0.43 g | C(#N)[Cu]
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(4-carbamoyl-2-methylphenyl)-1-(4-methoxyphenyl)-1H-pyrrole-3-carboxylate | 600 mg, 66% yield | C(N)(=O)C1=CC(=C(C=C1)C=1N(C=CC1C(=O)OCC)C1=CC=C(C=C1)OC)C | C22H22N2O4
